US05286721
To a solution of 0.32 ml of oxalyl chloride in 10 ml of dichloromethane was added 0.54 ml of dimethyl sulfoxide at -78° C. under nitrogen. After stirring for 5 minutes, a solution of 1.00 g of 1-allyloxycarbonylamino-2-(N-allyloxycarbonylaminomethyl)butan-3-ol in 2 ml of dichloromethane was added. After stirring for 30 minutes, 2.43 ml of triethylamine was added to the mixture and then the temperature of the mixture was raised to room temperature. The mixture was extracted with chloroform and the organic layer was washed in turn with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution and brine, and dried over anhydrous magnesium sulfate. Evaporation of the solvent followed by a column chromatography on silica gel (hexane:ethyl acetate=1:1) gave 0.77 g of 1-allyloxycarbonylamino-2-(N-allyloxycarbonylaminomethyl)butan-3-one.

reactant | oxalyl chloride | 0.32 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 0.54 ml | CS(=O)C | C2H6OS
reactant | 1-allyloxycarbonylamino-2-(N-allyloxycarbonylaminomethyl)butan-3-ol | 1.00 g | C(C=C)OC(=O)NCC(C(C)O)CNC(=O)OCC=C | C13H22N2O5
reactant | triethylamine | 2.43 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-allyloxycarbonylamino-2-(N-allyloxycarbonylaminomethyl)butan-3-one | 0.77 g | C(C=C)OC(=O)NCC(C(C)=O)CNC(=O)OCC=C | C13H20N2O5
